US09428469B2
4-amino-2,6-dichlorobenzonitrile
A solution of 2,6-dichloro-4-nitrobenzonitrile (2.46 g, 11.3 mmol, Eq: 1.00), iron (3.17 g, 56.7 mmol, Eq: 5) and ammonium chloride (6.06 g, 113 mmol, Eq: 10) in methanol (30 mL)/water (10 mL) was heated at reflux o/n. TLC shows incomplete reaction. Continued heating at 100 deg for 6 hr, then 60 deg overnight. The reaction mixture was filtered over Celite. The filtrate was suspended in ethyl acetate to give insoluble solid. The slurry was concentrated to dryness, suspended in water, filtered, and rinsed with water. The solid was transferred to a round bottom flask, suspended in benzene, and concentrated. An additional portion of benzene was added and concentrated once more to give 1.37 g (65%) of desired product as a light brown solid.

reactant | 2,6-dichloro-4-nitrobenzonitrile | 11.3 mmol, 2.46 g | ClC1=C(C#N)C(=CC(=C1)[N+](=O)[O-])Cl | C7H2Cl2N2O2
reactant | ammonium chloride | 113 mmol, 6.06 g | [Cl-].[NH4+]
reactant | water | 10 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
catalyst | iron | 56.7 mmol, 3.17 g | [Fe] | Fe
product | 4-amino-2,6-dichlorobenzonitrile | 1.37 g, 65% | NC1=CC(=C(C#N)C(=C1)Cl)Cl | C7H4Cl2N2
